US08912176B2
Preparation of 1-cyclobutyl-4-[(1-propanoylazetidin-3-yl)carbonyl]-1,4-diazepane. Potency Range A
To a stirred solution of 1-(azetidin-3-ylcarbonyl)-4-cyclobutyl-1,4-diazepane (125 mg, 0.53 mmol) in dichloromethane (5 ml) at 0° C. was added sodium carbonate (167 mg, 1.58 mmol) and propionyl chloride (58 mg, 0.63 mmol). The resulting mixture was stirred at RT for 13 h before volatiles were removed under reduced pressure. Purification by silica FCC (using a gradient of eluents; 100:0 to 98:2 DCM:2M NH3 in MeOH) followed by purification by preparative HPLC (Method 2) gave the title compound (18 mg, 12% yield) as pale yellow oil. LCMS data: Calculated MH1(294). Found 86% (MH1) m/z 294, Rt=3.18 min (Method D).

reactant | 1-(azetidin-3-ylcarbonyl)-4-cyclobutyl-1,4-diazepane | 0.53 mmol, 125 mg | N1CC(C1)C(=O)N1CCN(CCC1)C1CCC1 | C13H23N3O
reactant | sodium carbonate | 1.58 mmol, 167 mg | C([O-])([O-])=O.[Na+].[Na+]
reactant | propionyl chloride | 0.63 mmol, 58 mg | C(CC)(=O)Cl | C3H5ClO
solvent | dichloromethane | 5 ml | ClCCl | CH2Cl2
product | 1-cyclobutyl-4-[(1-propanoylazetidin-3-yl)carbonyl]-1,4-diazepane | 18 mg, 12% yield | C1(CCC1)N1CCN(CCC1)C(=O)C1CN(C1)C(CC)=O | C16H27N3O2
